Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with history of HL and alcohol use
presents as OSH transfer for traumatic rib fracture and
pneumothorax. Was home tonight when she lost her balance and
fell, with blunt trauma to the chest and positive
headstrike. Denies LOC or prolonged confusion. At OSH the
patient underwent CT imaging which showed a small
pneumothorax and 3 right-sided posterior rib fractures. Also
noted to have Tw and T11 compression fractures. Denies any
new numbness or weakness. No abdominal pain, nausea or
vomiting.
 
Past Medical History:
lumbar spine laminectomy, HLD, HTN, osteoporosis
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vitals: 98.1 102 140/77 18 96% RA
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
Neck: No cervical spine tenderness
CV: Borderline tachycardic, regular, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
Back: Tenderness at approximately T1-T2 and T11-T12 midline. 
Soft tissue swelling over right scapula.  Tenderness to 
palpation
of the right posterior lateral ribs approximately ___.  No chest
wall instability.
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused
Neuro: CN II through XII grossly intact, no focal deficits,
strength 5 out of 5 upper and lower bilaterally.  Sensorimotor
intact.  Gait not tested.

Discharge Physical Exam:
VS: 97.9, 133/84, 102, 18, 94% Ra 
Gen: A&O x3, ambulating around room independently in brace
Pulm: LS ctab. right chest TTP over rib fx's
CV: HRR
Abd: soft NT/ND
Ext: No edema
Neuro: intact, no deficits
 
Pertinent Results:
Laboratory:
___ 05:35AM BLOOD WBC:6.9 RBC:3.26* Hgb:11.3 Hct:33.2*
MCV:102* MCH:34.7* MCHC:34.0 RDW:12.4 RDWSD:46.5* Plt Ct:179
___ 05:35AM BLOOD Neuts:71.6* Lymphs:15.3* Monos:9.6 
Eos:2.5
Baso:0.6 Im ___ AbsNeut:4.90 AbsLymp:1.05* AbsMono:0.66
AbsEos:0.17 AbsBaso:0.04
___ 06:00AM BLOOD ___ PTT:29.1 ___
___ 05:35AM BLOOD Plt Ct:179
___ 05:35AM BLOOD Glucose:85 UreaN:13 Creat:0.9 Na:132*
K:5.4* Cl:95* HCO3:19* AnGap:18*
___ 06:31AM BLOOD K:4.5

Imaging:
CT chest without contrast
Impression:
There is a small right-sided pneumothorax.  Acute fractures the
third through fifth right posterior ribs.  
There is an acute fracture involving the T11 vertebral body and
acute versus subacute fracture of the T2 vertebral body.
There are groundglass densities identified within the dependent
lower lobes and the superior segment of the left lower lobe. 
Correlate clinically for contusions.  No consolidation.
Incidental/nonacute findings are listed above.

___ CXR:
Potential neoplasm in the superior segment of the left lower 
lobe which 
measures approximately 5 x 3.5 cm; consultation with CT surgery 
is 
recommended.  Grossly unchanged rib fractures without 
pneumothorax.  
Re-demonstrated left lower lung consolidation which again could 
represent 
pulmonary contusion in the setting of rib fractures. 

 
Brief Hospital Course:
Ms. ___ is a ___ lady with celiac disease, lupus, 
multiple back surgeries for chronic back pain, stroke, alcohol 
use, presenting 1 day after a fall at home, found to have right 
rib fractures, small pneumothorax that is clinically
insignificant, as well as T2 and T11 vertebral body compression 
fractures with questionable chronicity. The patient was 
hemodynamically stable and neurologically intact. Spine was 
consulted who recommended logroll precautions and ___ 
brace. They also requested an MRI to evaluate the chronicity of 
the fractures. 

The patient was admitted for pain control and monitoring of her 
respiratory and neurological status. The patient declined to 
have the MRI due to claustrophobia, and stated that she would 
follow-up with her Neurosurgeon and get an MRI as an outpatient. 
She was able to ___ the brace independently and remained 
neurologically intact. Physical therapy signed off since she had 
no ___ needs. Tertiary exam was negative for any additional 
finding. Repeat CXR on ___ showed no pneumothorax. 

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating in brace, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. She had follow-up schedule with here PCP to 
arrange thoracic MRI. Incidental findings on chest CT were 
communicated with the PCP. 

 
Medications on Admission:
Atenolol 25 mg daily
Pravastatin 40 mg daily
Sodium chloride 1 g once a week
Magnesium oxide 400 mg twice a day
Fluoxetine 10 mg daily
Vitamin D2 1.25 mg twice a week
Alendronate 35 mg once a week
Stool softener twice a day
Vitamin B12 1000 mg every 2 weeks
Aspirin 81 mg daily
Culturelle twice daily
Multivitamin daily
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
4.  Alendronate Sodium 35 mg PO QMON  
5.  Aspirin 81 mg PO DAILY  
6.  Atenolol 25 mg PO DAILY  
7.  FLUoxetine 10 mg PO DAILY  
8.  Magnesium Oxide 400 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pravastatin 40 mg PO QPM  
11.  Sodium Chloride 1 gm PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
[] Subacute fracture of T2 as well as fracture of T11 
[] Small right-sided pneumothorax and right-sided nondisplaced 
third through fifth rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a fall and were found to have 
multiple rib fractures and thoracic spine fractures. The Spine 
team was consulted, who recommended a MRI to further evaluate 
whether the fractures are acute or chronic but you declined to 
undergo this imaging. Therefore, it is recommended you wear the 
___ brace at all times when out of bed and follow-up with 
your neurosurgeon at scheduled appointment next month. 

You were seen by Physical Therapy and cleared for discharge 
home. Please note the following instructions:

* Your injury caused multiple right-sided rib fractures and a 
small lung injury, which can cause severe pain and subsequently 
cause you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 

 
Followup Instructions:
___